US08053440B2
A solution of 2-amino-4,6-dimethoxybenzamide (0.60 g, 3.06 mmol) and 4-[2-(tert-butyidimethylsilanoxy)ethoxy]-3,5-dimethylbenzaldehyde (0.856 g, 2.78 mmol) in N,N-dimethyl formamide (20 mL) was stirred at 70° C. for 1 h. Iodine (0.846 g, 3.33 mmol) and potassium carbonate (0.384 g, 2.78 mmol) were added and the reaction mixture was stirred at 70° C. for 16 h. The reaction mixture was poured into ice, and extracted with ethyl acetate. The organic layer was washed with water, brine, and dried over anhydrous Na2SO4. Removal of the solvent gave the crude product which was purified by column chromatography to give 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (444 mg, 39%) as a white solid. Selected data: 229-231° C.

reactant | 2-amino-4,6-dimethoxybenzamide | 3.06 mmol, 0.60 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-[2-(tert-butyidimethylsilanoxy)ethoxy]-3,5-dimethylbenzaldehyde | 2.78 mmol, 0.856 g | O([Si](C)(C)C(C)(C)C)CCOC1=C(C=C(C=O)C=C1C)C | C17H28O3Si
reactant | Iodine | 3.33 mmol, 0.846 g | II | I2
reactant | potassium carbonate | 2.78 mmol, 0.384 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 444 mg, 39% | OCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H22N2O5
